US07741347B2
NaCNBH3 (1.60 g, 24.2 mmol) was added in batches to a chilled (˜15° C.) water/MeOH (12 mL each) solution of (S)-4-amino-2-(tert-butoxycarbonylamino) butanoic acid (2.17 g, 9.94 mmol). A few minutes later acetaldehyde (2.7 mL, 48.1 mmol) was added drop-wise over 2 min, the cooling bath was removed, and the reaction mixture was stirred at ambient condition for 3.5 hr. An additional acetaldehyde (2.7 mL, 48.1 mmol) was added and the reaction was stirred for 20.5 hr. Most of the MeOH component was removed in vacuo, and the remaining mixture was treated with concentrated HCl until its pH reached ˜1.0 and then heated for 2 hr at 40° C. The volatile component was removed in vacuo, and the residue was treated with 4 M HCl/dioxane (20 mL) and stirred at ambient condition for 7.5 hr. The volatile component was removed in vacuo and the residue was purified with Dowex® 50WX8-100 ion-exchange resin (column was washed with water and the compound was eluted with dilute NH4OH, prepared from 18 ml of NH4OH and 282 ml of water) to afford intermediate (S)-2-amino-4-(diethylamino)butanoic acid as an off-white solid (1.73 g).

reactant | NaCNBH3 | 24.2 mmol, 1.60 g | [BH3-]C#N.[Na+]
reactant | (S)-4-amino-2-(tert-butoxycarbonylamino) butanoic acid | 9.94 mmol, 2.17 g | NCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C9H18N2O4
reactant | acetaldehyde | 48.1 mmol, 2.7 mL | C(C)=O | C2H4O
reactant | acetaldehyde | 48.1 mmol, 2.7 mL | C(C)=O | C2H4O
reactant | water MeOH | 12 mL | O.CO
product | (S)-2-amino-4-(diethylamino)butanoic acid | 1.73 g | N[C@H](C(=O)O)CCN(CC)CC | C8H18N2O2
